Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / codeine
 
Attending: ___.
 
Chief Complaint:
GI bleeding, anemia
 
Major Surgical or Invasive Procedure:
EGD with biopsy

 
History of Present Illness:
Dr ___ is an ___ with HTN (on no medication), insomnia, 
possible osteoporosis, and arthritis who presents with new 
anemia and melena.

She says she felt well until ___, when she felt slightly more 
short of breath than normal while swimming. She then went to 
dinner with her friends, and noted epigastric/retroxyphoid 
discomfort that was followed by a bout of very spontaneous 
emesis. She describes the discomfort as moderate, "raw" perhaps 
burning pain. Her one friend, who is a ___ doctor, was concerned 
that there was blood in her emesis and recommended she go to the 
ED. She declined. The next day, she had minimal pain but had 
poor appetite. On ___, she had some malaise but overall felt 
somewhat better. Today, she went to see her PCP who checked labs 
and noted a low hematocrit, so she was referred to the ED.

In the ED, she was tachycardic but otherwise stable. She labs 
confirmed anemia. She had DRE which showed melenic guaiac 
positive stool. No treatments recorded. Admission was requested.

ROS is negative in 10 points except as noted above
 
Past Medical History:
PMH: HTN (on no medication), insomnia, possible osteoporosis, 
and arthritis 

PSH: right hip replacement, Achilles repair, laminectomy
 
Social History:
___
Family History:
+ for PUD
 
Physical Exam:
 Vitals AVSS but for tachycardia to 110s
 Gen NAD, quite pleasant
 Abd soft, NT, ND, bs
 CV RRR, no MRG, ___ systolic murmur at apex
 Lungs CTA ___
 Ext WWP, no edema
 Skin no rash, anicteric
 GU no foley
 Eyes EOMI
 HENT MMM, OP clear
 Neuro nonfocal, moves all extremities, steady gait
 Psych normal affect
 
Pertinent Results:
Labs on admission
___ 01:10PM BLOOD WBC-7.8 RBC-2.32*# Hgb-7.3*# Hct-23.1*# 
MCV-100* MCH-31.5 MCHC-31.6* RDW-15.3 RDWSD-55.3* Plt ___
___ 11:20PM BLOOD WBC-7.8 RBC-2.31* Hgb-7.2* Hct-22.5* 
MCV-97 MCH-31.2 MCHC-32.0 RDW-14.9 RDWSD-53.1* Plt ___
___ 11:20PM BLOOD ___ PTT-26.3 ___
___ 11:20PM BLOOD Glucose-145* UreaN-25* Creat-0.8 Na-140 
K-3.7 Cl-105 HCO3-23 AnGap-16
___ 11:20PM BLOOD ALT-24 AST-31 AlkPhos-77 TotBili-0.1
___ 11:20PM BLOOD Lipase-96*
___ 01:10PM BLOOD CK-MB-2 cTropnT-<0.01
___ 01:10PM BLOOD TotProt-6.0* Iron-PND
___ 11:20PM BLOOD Albumin-4.1
___ 01:10PM BLOOD calTIBC-398 VitB12-379 Folate-13.4 
Ferritn-55 TRF-306
___ 01:10PM BLOOD PEP-PND

Imaging on admission
None

EGD:
Impression:Normal mucosa in the esophagus
Normal mucosa in the duodenum
Ulcers in the antrum
Erythema in the antrum compatible with gastritis (biopsy)
Otherwise normal EGD to third part of the duodenum
Recommendations:Follow up biopsy results to rule out H. pylori
Avoid NSAIDS
PPI BID
Repeat endoscopy in 12 weeks to assess for healing

Bx: pending for H pylori
 
Brief Hospital Course:
___ with HTN (on no medication), insomnia, possible 
osteoporosis, and arthritis who presents with new anemia and 
melena.

# Acute blood loss anemia and melena with
# Epigastric pain and nausea with vomiting likely
# Upper GI bleeding due to gastritis/PUD: 
Received 2 units pRBCs and IV PPI.  She was stabilized and 
underwent EGD showing several ulcers consistent with NSAID use.  
H. pylori was also a consideration and biopsies were taken.  She 
otherwise did well and was transitioned to PO PPI.  She will 
complete at least 1 month of BID PPI therapy and will undergo 
repeat EGD in 12 weeks.  PCP follow up for CBC check

Arthritis:
NSAIDs were stopped and she will continue Tylenol for now.  She 
declined other stronger medications

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen Dose is Unknown  PO Frequency is Unknown 
2. LORazepam 0.5 mg PO QHS:PRN insomnia 
3. Calcium Carbonate Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. LORazepam 0.5 mg PO QHS:PRN insomnia 
2. Calcium Carbonate 1500 mg PO DAILY 
3. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
4. Outpatient Lab Work
Please have your CBC checked on follow up

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute blood loss anemia/GI bleeding
peptic ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fatigue caused by anemia.  This was 
caused by GI bleeding from your stomach due to ulcers.  We think 
these were caused by NSAID use.  Please stop taking all NSAIDs 
for now and abstain from alcohol.  You will need to take a twice 
daily acid medication and we recommend repeat endoscopy in 12 
weeks, which can be arranged by your PCP.  Please follow up 
closely with your PCP as scheduled to recheck your blood work.
 
Followup Instructions:
___